US08609287B2
2,5-Di-tert-butylhydroquinone (0.2 mmol) was dissolved in anhydrous THF (20 ml). Sodium hydride (0.6 mmol) and 2-chloroethylethylether (0.4 mmol) was then added to the solution. The reaction mixture was then stirred at room temperature overnight. After removal of the solvent, the residue was partitioned between dichloromethane and aqueous NaHCO3 (0.1M). The organic portion was separated and dried over Na2SO4. After solvent removal in vacuo, the crude product was chromatographed (silica, hexanes/DCM from 5:1 to 1:1) to afford 1,4-bis(2-methoxyethoxy)-2,5-di-tert-butyl-benzene in an 81% yield. The product was characterized by 1H NMR (300 MHz, CDCl3, δ/ppm): 7.14 (s, 2H), 4.11 (t, J=4.5 Hz, 4H), 3.80 (t, J=4.5 Hz, 4H), 3.45 (s, 6H), 1.37 (s, 18H).

reactant | 2,5-Di-tert-butylhydroquinone | 0.2 mmol | C(C)(C)(C)C1=C(O)C=C(C(=C1)O)C(C)(C)C | C14H22O2
reactant | Sodium hydride | 0.6 mmol | [H-].[Na+]
reactant | 2-chloroethylethylether | 0.4 mmol | ClCCOCC | C4H9ClO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 1,4-bis(2-methoxyethoxy)-2,5-di-tert-butyl-benzene | 81% yield | COCCOC1=C(C=C(C(=C1)C(C)(C)C)OCCOC)C(C)(C)C | C20H34O4
